US08669229B2
A 4N hydrogen chloride ethyl acetate solution (3.7 ml) was added to an ethyl acetate solution (15 ml) of tert-butyl 4-{7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yloxycarbonylmethyl}-piperazine-1-carboxylate (1.2 g, 1.8 mmol), and the mixture was stirred at room temperature for 12 hours. The precipitates were collected by filtration, washed with ethyl acetate, and dried to obtain 800 mg of 1-{7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yloxycarbonylmethyl}-piperazine dihydrochloride as yellow powder.

reactant | hydrogen chloride ethyl acetate | 4N, 3.7 ml | C(C)OC(C)=O.Cl
reactant | tert-butyl 4-{7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yloxycarbonylmethyl}-piperazine-1-carboxylate | 1.8 mmol, 1.2 g | ClC1=CC2=C(NCCCC2OC(=O)C(C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C37H43ClN4O6
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 1-{7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yloxycarbonylmethyl}-piperazine dihydrochloride | 800 mg | Cl.Cl.ClC1=CC2=C(NCCCC2OC(=O)C(C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)N2CCNCC2)C=C1 | InChI=1S/C32H35ClN4O4.2ClH/c1-20-6-3-4-7-25(20)31(39)36-23-10-11-24(21(2)18-23)30(38)29(37-16-14-34-15-17-37)32(40)41-28-8-5-13-35-27-12-9-22(33)19-26(27)28;;/h3-4,6-7,9-12,18-19,28-29,34-35H,5,8,13-17H2,1-2H3,(H,36,39);2*1H
